US06414149B1
Step D: (R)-1-[4-(1-Methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-pyrimidin-2-yl]-ethyl butyrate
To a stirred solution of 1-methyl-2-quinoxalin-2-yl-1,2,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one hydrochloride (prepared according to the method of Example 75, Step C, 175 mg, 0.55 mmol) and (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl butyrate (prepared according to the method of Preparation Seven, 126 mg, 0.55 mmol) in isopropanol (6 mL) was added triethylamine (230 μL, 1.66 mmol). This mixture was heated to reflux overnight, cooled to room temperature, and evaporated. The residue was diluted with saturated aqueous sodium bicarbonate and extracted with chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (1.5% methanol/chloroform) to give 248 mg (95%) of the title compound of Example 75, Step D as a yellow oil. 1H NMR (CDCl3, 250 MHz) δ9.70 (s, 1H), 8.29 (d, 1H), 8.15 (dd, 1H), 8.03 (m, 1H), 7.82-7.70 (c, 2H), 6.48 (d, 1H) 5.72 (q, 1H), 4.36 (s, 2H), 4.35-4.15 (c, 2H), 3.42 (s, 3H), 2.77-2.82 (c, 2H), 2.43 (t, 2H), 1.79-1.60 (c, 2H), 1.61 (d, 3H), 0.99 (t, 3H); MS (APCI) 474 (MH+).

reactant | 1-methyl-2-quinoxalin-2-yl-1,2,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one hydrochloride | Cl.CN1N(C(C=2CNCCC21)=O)C2=NC1=CC=CC=C1N=C2
reactant | (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C10H13ClN2O2
reactant | triethylamine | 1.66 mmol, 230 μL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | (R)-1-[4-(1-Methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-pyrimidin-2-yl]-ethyl butyrate | 248 mg, 95% | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC2=C(CC1)N(N(C2=O)C2=NC1=CC=CC=C1N=C2)C | C25H27N7O3
